US04602027
A mixture of 5-ethyl-2-styryl-4-oxazolecarboxylic acid (5.57 g) and thionyl chloride (17 ml) was refluxed with stirring for an hour and the thionyl chloride was completely distilled off. The residue was dissolved in dimethoxyethane (20 ml) and the solution was added dropwise to a mixture of sodium borohydride (1.74 g) and dimethoxyethane (50 ml) under cooling with ice-sodium chloride and stirring. The whole mixture was stirred for 15 minutes, adjusted to pH 2 with 2N hydrochloric acid and refluxed for 30 minutes. The reaction mixture was concentrated, neutralized with aqueous sodium hydrogen carbonate and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was then distilled off and the residue was treated with hexane to give 5-ethyl-4-hydroxymethyl-2-styryloxazole as crystals; yield 4.37 g (83.4%). Recrystallization from ethyl ether gave colorless prisms melting at 90°-91° C.

reactant | 5-ethyl-2-styryl-4-oxazolecarboxylic acid | 5.57 g | C(C)C1=C(N=C(O1)C=CC1=CC=CC=C1)C(=O)O | C14H13NO3
reactant | thionyl chloride | 17 ml | S(=O)(Cl)Cl | Cl2OS
product | 5-ethyl-4-hydroxymethyl-2-styryloxazole | C(C)C1=C(N=C(O1)C=CC1=CC=CC=C1)CO | C14H15NO2
